US08703810B2
A 100-mL round-bottom flask charged with Pd2dba3 (69 mg, 0.075 mmol), BINAP (112 mg, 0.18 mmol), and NaOt−Bu (650 mg, 6.5 mmol) was degassed and filled with N2. THF (20 mL) was added, followed by a solution 5-bromo-1,2-difluoro-3-methoxybenzene (1.1 g, 5 mmol) and 1-(2,5-dimethoxyphenyl)ethanone (1.08 g, 6 mmol) in THF (10 mL). The resulting mixture was heated at 70° C. for 16 h. Water (30 mL) was added, and the mixture was extracted with ether (3×50 mL). The combined organics were dried over anhydrous Na2SO4, filtered, and concentrated to give the crude product, which was purified by column chromatography on silica gel (eluting with petroleum ether/ethyl acetate=80/1˜40/1) to give 2-(3,4-difluoro-5-methoxyphenyl)-1-(2,5-dimethoxyphenyl)ethanone (0.4 g) as a light yellow solid. 1H NMR (CDCl3): δ 7.24 (d, 1H), 7.04 (dd, 1H), 6.92 (d, 1H), 6.68-6.61 (m, 2H), 4.23 (s, 2H), 3.90 (s, 3H), 3.87 (s, 3H), 3.78 (s, 3H); LCMS: 323 (M+H)+.

reactant | BINAP | 0.18 mmol, 112 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt−Bu | 6.5 mmol, 650 mg | CC(C)(C)[O-].[Na+]
reactant | 5-bromo-1,2-difluoro-3-methoxybenzene | 5 mmol, 1.1 g | BrC=1C=C(C(=C(C1)F)F)OC | C7H5BrF2O
reactant | 1-(2,5-dimethoxyphenyl)ethanone | 6 mmol, 1.08 g | COC1=C(C=C(C=C1)OC)C(C)=O | C10H12O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd2dba3 | 0.075 mmol, 69 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | 30 mL | O | H2O
product | 2-(3,4-difluoro-5-methoxyphenyl)-1-(2,5-dimethoxyphenyl)ethanone | 0.4 g | FC=1C=C(C=C(C1F)OC)CC(=O)C1=C(C=CC(=C1)OC)OC | C17H16F2O4
